US04999378
Methyl 4-hydroxy-α-methylcinnamate (16.3 g), DMF (50 ml) and anhydrous potassium carbonate (11.7 g) were mixed, and stirred at 90° C. for 1 hour. The reaction solution was allowed to cool to 50° C., added 1-bromo-3-chloropropane (8.4 ml) thereto, and the mixture was stirred at the same temperature for 1 hour. To the reaction mixture was added water (200 ml), and the mixture was extracted with ether (150 ml), washed with water (150 ml) 2 times, and then, dried over anhydrous magnesium sulfate. The ether layer was concentrated urder reduced pressure to give methyl 4-(3-chloropropoxy)-α-methylcinnamate (20 g).

reactant | Methyl 4-hydroxy-α-methylcinnamate | 16.3 g | OC1=CC=C(C=C(C(=O)OC)C)C=C1 | C11H12O3
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
reactant | potassium carbonate | 11.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloropropane | 8.4 ml | BrCCCCl | C3H6BrCl
solvent | water | 200 ml | O | H2O
product | methyl 4-(3-chloropropoxy)-α-methylcinnamate | 20 g | ClCCCOC1=CC=C(C=C(C(=O)OC)C)C=C1 | C14H17ClO3
